US06911445B2
N-Benzyl-3-(1H-indole-3-yl)-cyclopentylamine
This compound was prepared in similar manner as for Intermediate 17, using 3-(1H-indol-3-yl)-cyclopentanone (3.0 g, 15 mmol) and benzylamine (1.95 g, 18 mmol) to give 4.7 g of the desired product as a mixture of cis and trans isomers, which were separated by flash chromatography to afford 0.6 g of the cis isomer (first eluting) and 1.0 g of the trans isomer.

reactant | 3-(1H-indol-3-yl)-cyclopentanone | 15 mmol, 3.0 g | N1C=C(C2=CC=CC=C12)C1CC(CC1)=O | C13H13NO
reactant | benzylamine | 18 mmol, 1.95 g | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl-3-(1H-indole-3-yl)-cyclopentylamine | 4.7 g | C(C1=CC=CC=C1)NC1CC(CC1)C1=CNC2=CC=CC=C12 | C20H22N2
